US06809097B1
A solution of 6-acetoxy-7-methoxy-1,4-dihydroquinolin-4-one (6.2 g, 28 mmol) and thionyl chloride (75 ml) containing DMF (0.5 ml) was heated at reflux for 1 hour. The volatiles were removed by evaporation. The residue was suspended in methylene chloride (5 ml) and poured slowly into a stirred solution of methanol/ammonium hydroxide. The mixture was partitioned between water and methylene chloride and dried by passing through ,phase separating paper. Removal of the solvent by evaporation gave a solid which was triturated with ether, collected by filtration, washed with ether and dried under vacuum to give 4-chloro-6-hydroxy-7-methoxyquinoline.

reactant | 6-acetoxy-7-methoxy-1,4-dihydroquinolin-4-one | 28 mmol, 6.2 g | C(C)(=O)OC=1C=C2C(C=CNC2=CC1OC)=O | C12H11NO4
reactant | thionyl chloride | 75 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 4-chloro-6-hydroxy-7-methoxyquinoline | ClC1=CC=NC2=CC(=C(C=C12)O)OC | C10H8ClNO2
